US07968538B2
1-(2-(3,5-Dimethoxybenzylamino)-4-(piperazin-1-yl)phenyl)-2,2,2-trifluoroethanone hydrochloride
A saturated solution of HCl gas in anhydrous diethyl ether was added portion wise to a solution of tert-butyl 4-(3-(3,5-dimethoxybenzylamino)-4-(2,2,2-trifluoroacetyl)-phenyl)piperazine-1-carboxylate (230 mg, 0.44 mmol) in anhydrous dichloromethane (1.5 mL). The resulting mixture was allowed to stand at room temperature for 30 min, and conversion was monitored by LCMS. The supernatant was pipetted out and the residue was concentrated down in vacuo and co-evaporated with diethyl ether to yield 150 mg (81%) of the title compound: 1H NMR (400 MHz, CD3OD): δ 7.65 (dd, 1H), 6.54 (d, 2H), 6.42-6.39 (m, 2H), 6.07 (d, 1H), 4.48 (br s, 2H), 3.76 (s, 6H), 3.63-3.60 (m, 4H), 3.30-3.25 (m, 4H). MS (ESI) m/z: Calculated: 423.18; Observed: 847.4 (2M++1)

reactant | HCl | Cl | ClH
reactant | tert-butyl 4-(3-(3,5-dimethoxybenzylamino)-4-(2,2,2-trifluoroacetyl)-phenyl)piperazine-1-carboxylate | 0.44 mmol, 230 mg | COC=1C=C(CNC=2C=C(C=CC2C(C(F)(F)F)=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C(C1)OC | C26H32F3N3O5
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 1-(2-(3,5-Dimethoxybenzylamino)-4-(piperazin-1-yl)phenyl)-2,2,2-trifluoroethanone hydrochloride | 150 mg, 81% | Cl.COC=1C=C(CNC2=C(C=CC(=C2)N2CCNCC2)C(C(F)(F)F)=O)C=C(C1)OC | InChI=1S/C21H24F3N3O3.ClH/c1-29-16-9-14(10-17(12-16)30-2)13-26-19-11-15(27-7-5-25-6-8-27)3-4-18(19)20(28)21(22,23)24;/h3-4,9-12,25-26H,5-8,13H2,1-2H3;1H
